US09403831B2
(S)-2-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)-4-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolane-2-yl)pyrimidin-2-yl)morpholine
Under a pressure tube, (S)-4-(5-bromopyrimidin-2-yl)-2-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)morpholine 50 mg (0.11 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) 42 mg (0.16 mmol), potassium acetate 43 mg (0.44 mmol), Pd(dppf)2Cl2 5.4 mg (0.007 mmol), and dppf 3.7 mg (0.007 mmol) were dissolved in dioxane 3 ml, and degassed with N2 (gas), followed by stirring at 80° C. for 3 hours. After the completion of the reaction, the reaction mixture was extracted with H2O and EA, followed by drying (Na2SO4), filtration, and concentration under reduced pressure, and the next reaction was advanced.

reactant | (S)-4-(5-bromopyrimidin-2-yl)-2-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)morpholine | 0.11 mmol, 50 mg | BrC=1C=NC(=NC1)N1C[C@H](OCC1)CN1N=NC=2C1=NC(=CN2)C=2C=NN(C2)C | C17H17BrN10O
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 0.16 mmol, 42 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 0.44 mmol, 43 mg | C(C)(=O)[O-].[K+]
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)2Cl2 | 0.007 mmol, 5.4 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | dppf | 0.007 mmol, 3.7 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | (S)-2-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)-4-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolane-2-yl)pyrimidin-2-yl)morpholine | CN1N=CC(=C1)C1=CN=C2C(=N1)N(N=N2)C[C@@H]2CN(CCO2)C2=NC=C(C=N2)B2OC(C(O2)(C)C)(C)C | C23H29BN10O3
